US07795280B2
1-(3 5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indole-6-carbonitrile (Compound 26, Structure 17 of Scheme IV, where R1=3,5-difluorophenyl, R2=2-nitrophenyl, R3=R4=H)
To a cooled (0° C.) suspension of 1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indole-6-carboxylic acid amide (15 mg, 0.034 mmol) and Et3N (10 μL, 0.072 mmol) in CH2Cl2 (1.5 mL) was added Tf2O (13 μL, 0.077 mmol). The mixture was stirred at 0° C. for 2 h and then at room temperature for 20 h. Water (25 mL) was added and the mixture was extracted with CH2Cl2 (2×25 mL). The combined organic phases were dried (Na2SO4) and concentrated to give the title compound as a yellow solid (13 mg, yield: 91%).

reactant | 1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indole-6-carboxylic acid amide | 0.034 mmol, 15 mg | FC=1C=C(CN2C=C(C3=CC=C(C=C23)C(=O)N)SC2=C(C=CC=C2)[N+](=O)[O-])C=C(C1)F | C22H15F2N3O3S
reactant | Et3N | 0.072 mmol, 10 μL | CCN(CC)CC | C6H15N
reactant | Tf2O | 0.077 mmol, 13 μL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Water | 25 mL | O | H2O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(3 5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indole-6-carbonitrile | 13 mg, yield: 91% | FC=1C=C(CN2C=C(C3=CC=C(C=C23)C#N)SC2=C(C=CC=C2)[N+](=O)[O-])C=C(C1)F | C22H13F2N3O2S
